US05559081
(a) 4,6-Dimethoxy-2-(3-nitro-2-thienylthio)pyrimidine
Sodium hydroxide (1.2 g) was dissolved in water (50 ml), 4,6-dimethoxy-2-mercaptopyrimidine (5.3 g) was added, and the mixture was stirred at room temperature for 15 minutes. 2-Chloro-3-nitrothiophene (5.0 g) dissolved in ethanol (50 ml) was added with stirring, the mixture being stirred at room temperature for 6 hours. The resulting precipitate was filtered, washed with water and dried, to give 7.6 g of the desired product, mp 199°-201° C.

reactant | Sodium hydroxide | 1.2 g | [OH-].[Na+]
reactant | 4,6-dimethoxy-2-mercaptopyrimidine | 5.3 g | COC1=NC(=NC(=C1)OC)S | C6H8N2O2S
reactant | 2-Chloro-3-nitrothiophene | 5.0 g | ClC=1SC=CC1[N+](=O)[O-] | C4H2ClNO2S
solvent | water | 50 ml | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4,6-Dimethoxy-2-(3-nitro-2-thienylthio)pyrimidine | 7.6 g | COC1=NC(=NC(=C1)OC)SC=1SC=CC1[N+](=O)[O-] | C10H9N3O4S2
